US04713474
A similar procedure to Example 1 is carried out by using 22.8 g of benzyl p-hydroxybenzoate and 6.4 g of oxalic acid dichloride to yield di(p-benzyloxycarbonylphenyl)oxalate, m.p. 106°-108° C., as white crystals.

reactant | benzyl p-hydroxybenzoate | 22.8 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | oxalic acid dichloride | 6.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | di(p-benzyloxycarbonylphenyl)oxalate | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)OC(C(=O)OC1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)=O | C30H22O8
